US05453424
(7) 3-(2-Bromoacetamido)-2-benzoylfuran
3-Amino-2-benzoylfuran (4.93 g, 0.025 mol) was dissolved in s dry methylene chloride (50 mL). The solution was cooled to 0° C. under nitrogen and triethylamine (3.8 mL, 0.0275 mol) was added followed by bromoacetyl bromide (2.4 mL, 0.0275 mol). The mixture was stirred at 0° C. for five hours. Next another 10% of triethylamine and bromoacetyl bromide were added and the reaction was left over night. Ehtyl acetate (200 mL) and saturated NaCl (75 mL) were added. The ethyl acetate layer was separated, washed with saturated NaCl solution, dried over sodium sulfate, filtered and concentrated in vacuo. A tan solid was obtained in theoretical yield (7.7 g).

reactant | 3-Amino-2-benzoylfuran | 0.025 mol, 4.93 g | NC1=C(OC=C1)C(C1=CC=CC=C1)=O | C11H9NO2
reactant | triethylamine | 0.0275 mol, 3.8 mL | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 0.0275 mol, 2.4 mL | BrCC(=O)Br | C2H2Br2O
reactant | NaCl | 75 mL | [Na+].[Cl-]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Ehtyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-Bromoacetamido)-2-benzoylfuran | BrCC(=O)NC1=C(OC=C1)C(C1=CC=CC=C1)=O | C13H10BrNO3
